US06251905B1
ii) Synthesis of 5-[N-[4-(trifluoromethanesulfonamido)butan-1-yl]aminomethyl]imidazo[1,2-a]pyridine
To a suspension formed by adding 36.93 g (181.85 mmol) of 5-chloromethylimidazo[1,2-a]pyridine hydrochloride to 200 ml of acetonitrile was added 32.06 g (363.72 mmol) of 1,4-diaminobutane, then the mixture was heated for 30 minutes under reflux. After completion of the reaction, the reaction mixture was cooled to allow 1,4-diaminobutane.dichloride to precipitate, which was collected by filtration and washed twice with 25 ml of acetonitrile. The filtrate and washings were combined, to which was added 50.68 ml (363.72 mmol) of triethylamine. The mixture was stirred sufficiently, to which was added 64.97 g (181.85 mmol) of N-phenyltrifluoromethanesulfonimide. The mixture was stirred for two hours at room temperature. After completion of the reaction, the solvent was distilled off under reduced pressure. The residue was extracted with 500 ml of chloroform. The organic layer was washed with 500 ml of a saturated aqueous saline solution, which was dried over magnesium sulfate, then the solvent was distilled off under reduced pressure. The residue was purified by silicagel column chromatography (eluent: chloroform/methanol=20:1) to give 41.60 g (65.3%, a colorless solid) as the desired compound.

reactant | 5-chloromethylimidazo[1,2-a]pyridine hydrochloride | 181.85 mmol, 36.93 g | Cl.ClCC1=CC=CC=2N1C=CN2
reactant | 1,4-diaminobutane | 363.72 mmol, 32.06 g | NCCCCN | C4H12N2
reactant | triethylamine | 363.72 mmol, 50.68 ml | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 181.85 mmol, 64.97 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 5-[N-[4-(trifluoromethanesulfonamido)butan-1-yl]aminomethyl]imidazo[1,2-a]pyridine | FC(S(=O)(=O)NCCCCNCC1=CC=CC=2N1C=CN2)(F)F | C13H17F3N4O2S
